US07282588B2
4-[3-(4-nitrophenyl)-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]-2-[4-(N-morpholinylmethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine
Following the procedure for Intermediate 100 using 4-bromo-2-[4-(N-morpholinylmethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine and 3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole provided the title compound. ESMS [M+H]+: 665.2

reactant | 4-bromo-2-[4-(N-morpholinylmethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCOCC2)S(=O)(=O)C2=CC=CC=C2 | C24H22BrN3O3S
reactant | 3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CCO | C17H22BN3O5
product | 4-[3-(4-nitrophenyl)-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]-2-[4-(N-morpholinylmethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCOCC2)S(=O)(=O)C2=CC=CC=C2)CCO | C35H32N6O6S
